Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is s/p L pneumonectomy ___ in with a 3-day 
history of chest ___ and back ___, worsening this morning. He 
describes the ___ as a
heaviness that starts anteriorly and spreads down and across the 
costal margin to his back. He notes that it's worse when he lays 
down and only temporarily relieved when he stands up. It no 
longer responds to his oral ___ medications. He also states 
that he has had a productive cough and night sweats for the same
period of time.

 
Past Medical History:
T3N2 squamous cell carcinoma of the left main stem bronchus 
diagnosed ___.  The initial tumor was a large, necrotic, 
friable mass that completely occluded the left mainstem 
bronchus; it was associated with left lung collapse and 
bilateral hilar and right paratracheal adenopathy.  The tumor 
was debrided and a stent was placed in early ___.  Treatment 
with combination chemotherapy and XRT was started on ___.
Pulmonary embolism ___.
Post-obstructive pneumonia ___.
Chronic obstructive pulmonary disease.
Latent tuberculosis.
Pneumonia ___.
 
Social History:
___
Family History:
Father died of laryngeal cancer.
 
Physical Exam:
General: ___ year-old male in no apparent distress
HEENT: normocephalic, mucus membranes moist
Neck; supple no lymphadenopathy
Card; RRR
Resp: CTA tenderness to palpation over left costal margin, 
traveling across to the left side of the back. No masses, no 
fluctuance are appreciated.
GI: bowel sounds positive, abdomen soft non-tender/non-distended
Extr: warm no edema
Skin: well healed incision left chest 
Neuro: non-focal

 
Pertinent Results:
___ WBC-6.7 RBC-4.32* Hgb-12.5* Hct-36.6 Plt ___
___ Glucose-97 UreaN-9 Creat-0.8 Na-141 K-3.5 Cl-102 
HCO3-31 
___ CK(CPK)-53 cTropnT-<0.01
 
Brief Hospital Course:
Mr. ___ was admitted on ___ for recurrent chest ___.  
His cardiac enzymes were negative, ECG NSR.  He was seen by the 
chronic ___ service who recommended a lidocaine patch and 
Neurontin for T8, T9 dermatone ___ likely nerve root 
irritation, which was started.  He continued on his home 
medications.  He is to follow-up with the chronic ___ service 
as an outpatient and the ___ clinic in ___ as previous.
 
Medications on Admission:
fluticasone-salmeterol 250-50 mcg bid, fludrocortisone 0.1 mg 
daily, isoniazid ___ mg daily, pyridoxine 50 mg daily, warfarin 
as directed daily, oxycodone 5 mg q4hrs, tylenol ___ mg q6h
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Isoniazid ___ mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Gabapentin 300 mg Tablet Sig: One (1) Capsule PO three times 
a day.
Disp:*90 Capsule(s)* Refills:*2*
8. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed.  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
10. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical Q24HRS ().
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*2*
11. Warfarin 2 mg Tablet Sig: as directed Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T3N2 SCC L mainstem bronchus s/p pneumonectomy ___, PE ___, 
Post-obstructive pneumonia ___, latent tuberculosis 
Chronic ___

 
Discharge Condition:
Stable

 
Discharge Instructions:
Call Dr. ___ ___ if experience: fever 
or chills, increased cough or sputum production.
Coumadin follow-up with the ___ clinic as previous 
___
 
Followup Instructions:
___